US06528510B1
4-iso-Propyl-thiazole-2-carbaldehyde
A solution of 2.1 g (11 mmol) of 4-isopropyl-thiazole-2-carboxylic acid ethyl ester (J. Med. Chem., 1998:602-617) in CH2Cl2 (50 mL) was cooled to −78° C. under nitrogen and treated dropwise with DIBAL (12 mL of 1.0 M in CH2Cl2; 12 mmol). The mixture was stirred at low temperature for 1 hour and then treated with another 7 mL of DIBAL. The solution was stirred for 30 minutes at −78° C. H2O was added, and the mixture was extracted with EtOAc (3×100 mL). The combined extracts were washed with brine, dried (MgSO4), and concentrated. Chromatography of the residue over silica gel, eluting with 3:1 hexane:EtOAc, gave the title compound.

reactant | 4-isopropyl-thiazole-2-carboxylic acid ethyl ester | 11 mmol, 2.1 g | C(C)OC(=O)C=1SC=C(N1)C(C)C | C9H13NO2S
reactant | DIBAL | 12 mmol, 1.0 M, 12 mL | CC(C)C[AlH]CC(C)C
reactant | DIBAL | 7 mL | CC(C)C[AlH]CC(C)C
reactant | H2O | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-iso-Propyl-thiazole-2-carbaldehyde | C(C)(C)C=1N=C(SC1)C=O | C7H9NOS
